US07459451B2
A mixture of tert-butyl -2-(methoxymethyl)-3-(5-methyl-3-pyridyl)acrylate (1.26 g) and 5-amino-1-ethylpyrazole (481 mg) in tert-BuOH (14 ml) was heated at 90° C. for 3 hours. After cooling the mixture was dissolved in THF (14 ml). To this was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (982 mg) and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:1) to give tert-butyl 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (1.23 g) as a colorless crystal.

reactant | tert-butyl -2-(methoxymethyl)-3-(5-methyl-3-pyridyl)acrylate | 1.26 g | C(C)(C)(C)OC(C(=CC=1C=NC=C(C1)C)COC)=O | C15H21NO3
reactant | 5-amino-1-ethylpyrazole | 481 mg | NC1=CC=NN1CC | C5H9N3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 982 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tert-BuOH | 14 ml | C(C)(C)(C)O | C4H10O
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | tert-butyl 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.23 g | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)OC(C)(C)C)COC | C21H26N4O3
